US03994884
A suspension of t-butyl 7β-amino-3-vinylceph-3-em-4-carboxylate hydrogen p-toluenesulphonate (1.14 g, 2.5 mmole) in methylene chloride (25 ml) was shaken with 4 percent aqueous sodium hydrogen carbonate solution (10 ml) until the organic phase cleared. The aqueous phase was re-extracted with methylene chloride (10 ml), and the combined organic phases were washed with water (10 ml) and dried (MgSO4). The solution of t-butyl 7β-amino-3-vinylceph-3-em-4-carboxylate so obtained was stirred and treated with a solution of dicyclohexylcarbodiimide (515 mg, 1 equiv.) in dry methylene chloride (10 ml). A solution of p-nitrophenylacetic acid (453 mg, 1 equiv.) in methylene chloride (15 ml) was added over a period of 5 minutes and the mixture was stirred at 30° for 2 hours. The precipitated N,N'-dicyclohexylurea was filtered off, and the filtrate was washed with 3%-sodium hydrogen carbonate solution (50 ml), water (50 ml), 2N-hydrochloric acid (25 ml) and water (25 ml), dried (MgSO4 ) and evaporated to an orange gelatinous solid. This solid was triturated with ethyl acetate (150 ml), the insoluble dicyclohexylurea was removed by filtration, and the filtrate was evaporated to give t-butyl 7β-(p-nitrophenylacetamido)-3-vinylceph-3-em-4-carboxylate (1.02 g, 92%) (see Table 1)

reactant | t-butyl 7β-amino-3-vinylceph-3-em-4-carboxylate hydrogen p-toluenesulphonate | 2.5 mmole, 1.14 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C)(C)C)C1=O
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | t-butyl 7β-amino-3-vinylceph-3-em-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C)(C)C)C1=O | C13H18N2O3S
